US06727264B1
2-[(3-CHLOROBENZYL)OXY]-1-NAPHTHALDEHYDE:
Prepared according to the Procedure for 2-(isopentyloxy)-1-naphthaldehyde using 2-hydroxy-1-naphthaldehyde and 1-(bromomethyl)-3-chlorobenzene.

reactant | 2-(isopentyloxy)-1-naphthaldehyde | C(CC(C)C)OC1=C(C2=CC=CC=C2C=C1)C=O | C16H18O2
reactant | 2-hydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | 1-(bromomethyl)-3-chlorobenzene | BrCC1=CC(=CC=C1)Cl | C7H6BrCl
product | 2-[(3-CHLOROBENZYL)OXY]-1-NAPHTHALDEHYDE | ClC=1C=C(COC2=C(C3=CC=CC=C3C=C2)C=O)C=CC1 | C18H13ClO2
